US08003806B2
(b) tert-Butyl (3R)-3-(2-aminoanilino)-3-phenylpropanoate
To a solution of tert-butyl (3R)-3-(2-nitroanilino)-3-phenylpropanoate (100 mg, 292 μmol) in a mixture of ethanol and water (4 mL, 3:1), was added palladium on carbon (20 mg, 10% w/w Pd) and ammonium formate (191 mg, 3.03 mmol). The suspension was heated to reflux for 10 minutes, and was then cooled to room temperature, filtered through a pad of Celite®, and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (98:2) to afford the title compound, 1H NMR: (CD3OD) 7.41 (d, J=7.3, 1H), 7.33-7.31 (m, 2H), 7.25-7.21 (m, 1H), 6.75-6.73 (m, 1H), 6.72-6.52 (m, 2H), 6.47-6.45 (m, 1H), 4.82 (obs., 1H), 2.87 (dd, J=14.6, 7.7, 1H), 2.74 (dd, J=14.6, 6.2, 1H), 1.41 (s, 9H).

reactant | tert-butyl (3R)-3-(2-nitroanilino)-3-phenylpropanoate | 292 μmol, 100 mg | [N+](=O)([O-])C1=C(N[C@H](CC(=O)OC(C)(C)C)C2=CC=CC=C2)C=CC=C1 | C19H22N2O4
reactant | ammonium formate | 3.03 mmol, 191 mg | C(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 4 mL | O | H2O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | tert-Butyl (3R)-3-(2-aminoanilino)-3-phenylpropanoate | NC1=C(N[C@H](CC(=O)OC(C)(C)C)C2=CC=CC=C2)C=CC=C1 | C19H24N2O2
